US07932256B2
3-Methyl-5-nitropyridin-2-ol (134 g, 0.872 mol) (J. Org. Chem. 1949, 14, 328-332) was divided into 3 portions and placed in three 1-L round bottom flasks. POCl3 (200 mL) was added to each flask and the mixtures were heated to reflux for 2 h. The solutions were cooled and the excess POCl3 was removed in vacuo. The residues were poured into ice water (1 L) with stirring and the precipitates were collected by filtration and air dried for 20 min. The combined products were recrystallized from 10% ethyl acetate in hexanes (300 mL) and air dried to give 2-chloro-3-methyl-5-nitropyridine (139 g, 92% yield) as a white solid which was used in the next step without further purification: 1H NMR (300 MHz, CDCl3) δ 9.04 (d, J=2.5 Hz, 1H), 8.33 (d, J=2.2 Hz, 1H), 2.50 (s, 3H).

reactant | 3-Methyl-5-nitropyridin-2-ol | 0.872 mol, 134 g | CC=1C(=NC=C(C1)[N+](=O)[O-])O | C6H6N2O3
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-methyl-5-nitropyridine | 139 g, 92% yield | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
